US04172943
{{8-[5-(4-Fluorophenyl)-2-pentyl]-10-hydroxy-5,5-dimethyl-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridin-2-yl}acetyl}urea (V)
A solution of 1.50 g. (0.011 mole) of chloroacetyl urea in 20 ml. of dimethylformamide was added dropwise to a stirred solution of 3.95 g. (0.01 mole) of 8-[5-(4-fluorophenyl)-2-pentyl]-10-hydroxy-5,5-dimethyl-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine in 25 ml. of dimethylformamide and 1.11 g. (0.011 mole) of triethylamine. After stirring at room temperature for 22 hours, the mixture was diluted with 45 ml. of water and extracted with ether. The combined ether extracts were washed with water, dried over anhydrous sodium sulfate, and evaporated in vacuo. The residue was recrystallized from acetonitrile, m.p. 133°-134°.

reactant | chloroacetyl urea | 0.011 mole | ClCC(=O)NC(=O)N | C3H5ClN2O2
reactant | 8-[5-(4-fluorophenyl)-2-pentyl]-10-hydroxy-5,5-dimethyl-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine | 0.01 mole | FC1=CC=C(C=C1)CCCC(C)C1=CC2=C(C(=C1)O)C=1CNCCC1C(O2)(C)C | C25H30FNO2
reactant | triethylamine | 0.011 mole | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | {{8-[5-(4-Fluorophenyl)-2-pentyl]-10-hydroxy-5,5-dimethyl-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridin-2-yl}acetyl}urea | FC1=CC=C(C=C1)CCCC(C)C1=CC2=C(C(=C1)O)C=1CN(CCC1C(O2)(C)C)CC(=O)NC(=O)N | C28H34FN3O4
